US04499097
1-[2-(2-Chloro-6-methyl-3-pyridinyl)-5-methyl-1H-imidazol-4-yl]ethanone
A mixture of 0.7 g of 2,3,4-pentanetrione 3-oxime and 0.9 g of 2-chloro-6-methyl-3-pyridylmethylamine in 50 ml of acetonitrile was stirred at the reflux temperature for 4 hours. The reaction mixture was evaporated in vacuo to give an oil. The oil was boiled in 50 ml. of water, treated with activated charcoal and filtered. The filtrate was cooled at 5° C. to yield a precipitate. The precipitate was collected, washed with cold water and dried to give 0.25 g of the product of the Example as a white solid, mp 156°-158° C.

reactant | 2,3,4-pentanetrione 3-oxime | 0.7 g | CC(C(C(C)=O)=NO)=O | C5H7NO3
reactant | 2-chloro-6-methyl-3-pyridylmethylamine | 0.9 g | ClC1=NC(=CC=C1CN)C | C7H9ClN2
reactant | water | O | H2O
reactant | charcoal | C | CH4
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-[2-(2-Chloro-6-methyl-3-pyridinyl)-5-methyl-1H-imidazol-4-yl]ethanone | 0.25 g | ClC1=NC(=CC=C1C=1NC(=C(N1)C(C)=O)C)C | C12H12ClN3O
